US04229462
A solution of 10.65 grams (0.05 mole) of 2-iminoimidazolidine hydroiodide in dimethylformamide is added dropwise with stirring over a 15 minute period to a cooled to 5° C. suspension of 397.5 milligrams (0.05 mole) of lithium hydride in 50 milliliters of dry dimethylformamide under nitrogen whereupon hydrogen evolution is observed. While stirring is continued, the mixture is allowed to gradually warm to room temperature. Thereafter, the reaction mixture is cooled to 0°-5° C. and a solution of 5.0 grams (0.03 mole) of 2-chloro-6-methylphenyl isocyanate in 25 milliliters of dry dimethylformamide is added dropwise over a two hour period. After completion of the addition, the mixture is allowed to warm gradually to room temperature while the stirring under nitrogen atmosphere is continued overnight to obtain the desired N-(2-chloro-6-methylphenyl)-N'-(2-imidazolidinylidene)urea product which remains in solution. The product is recovered from the reaction mixture by (a) adding the mixture to 300 milliliters of ice water with stirring, (b) lowering the pH below 2 with aqueous 10 percent hydrochloric acid to precipitate acid insoluble material (c) filtering, (d) basifying the filtrate to pH 8-9 with solid potassium carbonate, and (e) saturating the solution with solid sodium chloride to precipitate the desired N-(2-chloro-6-methylphenyl)-N'-(2-imidazolidinylidene)urea free base as a white solid. The product after washing thoroughly with water has a melting point of 169°-171° C.

reactant | 2-iminoimidazolidine hydroiodide | 0.05 mole, 10.65 grams | I.N=C1NCCN1
reactant | lithium hydride | 0.05 mole, 397.5 milligrams | [H-].[Li+]
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-6-methylphenyl isocyanate | 0.03 mole, 5.0 grams | ClC1=C(C(=CC=C1)C)N=C=O | C8H6ClNO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 milliliters | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 milliliters | CN(C=O)C | C3H7NO
product | N-(2-chloro-6-methylphenyl)-N'-(2-imidazolidinylidene)urea | ClC1=C(C(=CC=C1)C)NC(=O)N=C1NCCN1 | C11H13ClN4O
